US04151357
(E,Z,E) and (E,E,E)-7-hydroxymethyl-3,11,15-trimethyl-2,6,10,14-hexadecatetraenoic acid
A suspension of 14.1 g of (E)-4-methyl-5-carboxy-4-penten-1-yltriphenylphosphonium bromide, 8.4 g of (E)-1,1-dimethoxy-6,10-dimethyl-5,9-undecadien-2-one and 2.5 g of 63.8% sodium hydride in 30 ml of anhydrous dimethyl sulfoxide was stirred at 50°-55° C. for 2.5 hours and 40 ml of acetic acid-water (5:1) was added thereto. The resulting mixture was again stirred at 50°-55° C. for 30 minutes. After completion of the reaction, the reaction mixture was extracted four times with n-hexane and the extracts were washed with water, dried over anhydrous sodium sulfate and then the solvent was distilled off to leave 10.4 g of an yellow oily substance. The resulting oil was dissolved in 50 ml of ethanol, 1.2 g of sodium borohydride was added thereto at 5°-10° C. and the resulting mixture was stirred for 1 hour. To the reaction mixture were added ethyl ether and water and, after stirring, an aqueous layer was separated and neutralized with hydrochloric acid under ice-cooling. The so separated oily substance was extracted with ether and the extract was washed with water and dried over anhydrous sodium sulfate. The solvent was distilled off to afford 3.98 g of the end product.

reactant | (E)-1,1-dimethoxy-6,10-dimethyl-5,9-undecadien-2-one | 8.4 g | COC(C(CC\C=C(\CCC=C(C)C)/C)=O)OC | C15H26O3
reactant | sodium hydride | 2.5 g | [H-].[Na+]
reactant | acetic acid water | 40 ml | C(C)(=O)O.O
reactant | sodium borohydride | 1.2 g | [BH4-].[Na+]
solvent | dimethyl sulfoxide | 30 ml | CS(=O)C | C2H6OS
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | O | H2O
solvent | ethyl ether | C(C)OCC | C4H10O
product | (E,E,E)-7-hydroxymethyl-3,11,15-trimethyl-2,6,10,14-hexadecatetraenoic acid | 3.98 g | OC/C(=C/CC/C(=C/C(=O)O)/C)/CC\C=C(\CCC=C(C)C)/C | C20H32O3
